US08258134B2
A solution of 2-[4-(2-acetyl-phenoxy)-6-oxo-6H-pyridazin-1-yl]-3-cyclopentyl-propionic acid methyl ester (23.4 g, 0.061 mol) in 1,4-dioxane (230 mL) and hydrochloric acid (230 mL) was stirred at reflux overnight. After this time, the reaction was cooled to 25° C., concentrated in vacuo, and was treated with acetone (200 mL) and stirred at 25° C. for 1 h. The resulting precipitate was collected by filtration, washed with petroleum ether, acetone, ethyl acetate, and then dried to afford 2-[4-(2-acetyl-phenoxy)-6-oxo-6H-pyridazin-1-yl]-3-cyclopentyl-propionic acid (12 g, 53%); ESI-MS 371 [M+H+]; HPLC: >98% (purity). 1H-NMR (300 MHz, DMSO-d6) δ 1.14 (m, 2H), 1.45 (m, 7H), 1.98 (m, 1H), 2.02 (m, 1H); 5.34 (m, 1H); 5.77 (s, 1H); 7.43 (m, 1H); 7.54 (m, 1H); 7.76 (m, 1H); 7.95 (m, 1H); 8.13 (m, 1H) 13.01 (s, 1H).

reactant | 2-[4-(2-acetyl-phenoxy)-6-oxo-6H-pyridazin-1-yl]-3-cyclopentyl-propionic acid methyl ester | 0.061 mol, 23.4 g | COC(C(CC1CCCC1)N1N=CC(=CC1=O)OC1=C(C=CC=C1)C(C)=O)=O | C21H24N2O5
solvent | 1,4-dioxane | 230 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 230 mL | Cl | ClH
product | 2-[4-(2-acetyl-phenoxy)-6-oxo-6H-pyridazin-1-yl]-3-cyclopentyl-propionic acid | 12 g, 53% | C(C)(=O)C1=C(OC=2C=NN(C(C2)=O)C(C(=O)O)CC2CCCC2)C=CC=C1 | C20H22N2O5
